### PR TITLE
[Merged by Bors] - feat(RingTheory/Coalgebra/MulOpposite): coalgebra instance for MulOpposite

### PR DESCRIPTION
**Pull request by themathqueen**
Adding an instance for `Aᵐᵒᵖ` being an `R`-coalgebra when `A` is.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Coalgebra/MulOpposite.lean [hunk 1]
```diff
@@ -0,0 +1,100 @@
...
+    rw [Coalgebra.rTensor_counit_comp_comul]
+    rfl
+  lTensor_counit_comp_comul := by
+    rw [comul_def, counit_def, ← LinearMap.comp_assoc,
+      LinearMap.lTensor_comp_map, LinearMap.comp_assoc,
+      LinearEquiv.symm_comp, LinearMap.comp_id,
+      ← LinearMap.rTensor_comp_lTensor, LinearMap.comp_assoc]
+    nth_rw 2 [← LinearMap.comp_assoc]
+    rw [Coalgebra.lTensor_counit_comp_comul]
+    rfl
```
Comment (chrisflav) [inline Mathlib/RingTheory/Coalgebra/MulOpposite.lean]:
```suggestion
noncomputable instance [Coalgebra R A] : Coalgebra R Aᵐᵒᵖ where
  coassoc := by
    ext
    rw [comul_def, LinearMap.rTensor_comp, LinearMap.rTensor_comp]
    simp only [LinearMap.coe_comp, LinearEquiv.coe_coe, Function.comp_apply,
      LinearMap.lTensor_map, LinearMap.rTensor_def]
    simp_rw [← map_map_assoc, map_map, LinearMap.comp_assoc, ← LinearMap.lTensor_comp_rTensor]
    simp [LinearMap.lTensor_tensor, LinearMap.comp_assoc]
  rTensor_counit_comp_comul := by
    ext
    simp only [counit_def, comul_def, LinearMap.coe_comp,
      Function.comp_apply, LinearMap.rTensor_map, LinearMap.comp_assoc]
    simp [← LinearMap.lTensor_comp_rTensor]
  lTensor_counit_comp_comul := by
    ext
    simp only [counit_def, comul_def, LinearMap.coe_comp,
      Function.comp_apply, LinearMap.lTensor_map, LinearMap.comp_assoc]
    simp [← LinearMap.rTensor_comp_lTensor]
```
This works, if you add the following general purpose lemmas:

```
@[simp]
lemma LinearMap.lTensor_map {R : Type*} [inst : CommSemiring R]
    (M : Type*) {N : Type*} {P : Type*} {Q : Type*} {S : Type*} [AddCommMonoid M]
    [AddCommMonoid N] [AddCommMonoid P] [AddCommMonoid Q] [inst_5 : AddCommMonoid S]
    [Module R M] [inst_7 : Module R N] [Module R Q] [Module R S] [Module R P]
    (g' : Q →ₗ[R] S) (f : M →ₗ[R] P) (g : N →ₗ[R] Q) (x : M ⊗[R] N) :
    LinearMap.lTensor P g' (map f g x) = map f (g' ∘ₗ g) x :=
  LinearMap.congr_fun (LinearMap.lTensor_comp_map _ _ f g) x

@[simp]
lemma LinearMap.rTensor_map {R : Type*} [inst : CommSemiring R]
    (M : Type*) {N : Type*} {P : Type*} {Q : Type*} {S : Type*} [AddCommMonoid M]
    [AddCommMonoid N] [AddCommMonoid P] [AddCommMonoid Q] [inst_5 : AddCommMonoid S]
    [Module R M] [inst_7 : Module R N] [Module R Q] [Module R S] [Module R P]
    (f' : P →ₗ[R] S) (f : M →ₗ[R] P) (g : N →ₗ[R] Q) (x : M ⊗[R] N) :
    LinearMap.rTensor Q f' (map f g x) = map (f' ∘ₗ f) g x :=
  LinearMap.congr_fun (LinearMap.rTensor_comp_map _ _ f g) x

@[simp]
lemma LinearMap.map_lTensor {R : Type*} [inst : CommSemiring R]
    (M : Type*) {N : Type*} {P : Type*} {Q : Type*} {S : Type*} [AddCommMonoid M]
    [AddCommMonoid N] [AddCommMonoid P] [AddCommMonoid Q] [inst_5 : AddCommMonoid S]
    [Module R M] [inst_7 : Module R N] [Module R Q] [Module R S] [Module R P]
    (f : M →ₗ[R] P) (g : N →ₗ[R] Q) (g' : S →ₗ[R] N) (x : M ⊗[R] S) :
    (map f g (LinearMap.lTensor M g' x)) = map f (g ∘ₗ g') x :=
  LinearMap.congr_fun (LinearMap.map_comp_lTensor _ _ _ _) x
```
(they should all go in `Mathlib.LinearAlgebra.TensorProduct.Basic` below there unapplied variants)

Generally, it is often easier to reason on elements (using `ext`), because you don't have to worry about associativity of composition.

**Review by chrisflav — COMMENTED** [review]
Thanks for your PR! Adding the coalgebra structure on `Aᵐᵒᵖ` is a useful contribution. I left some suggestions below to streamline the proofs and to make the code more reusable.

File: Mathlib/RingTheory/Coalgebra/MulOpposite.lean [hunk 2]
```diff
@@ -0,0 +1,49 @@
...
+
+noncomputable instance [CoalgebraStruct R A] :
+    CoalgebraStruct R Aᵐᵒᵖ where
+  comul := map (opLinearEquiv R).toLinearMap (opLinearEquiv R).toLinearMap ∘ₗ
+    comul ∘ₗ (opLinearEquiv R).symm.toLinearMap
+  counit := counit ∘ₗ (opLinearEquiv R).symm.toLinearMap
+
+lemma comul_def [CoalgebraStruct R A] :
+    comul (R := R) (A := Aᵐᵒᵖ) = map (opLinearEquiv R).toLinearMap (opLinearEquiv R).toLinearMap
+      ∘ₗ comul ∘ₗ (opLinearEquiv R).symm.toLinearMap := rfl
```
Comment (chrisflav) [inline Mathlib/RingTheory/Coalgebra/MulOpposite.lean]: According to [style](https://leanprover-community.github.io/contribute/style.html#structuring-definitions-and-theorems):

> Use spaces on both sides of ":", ":=" or infix operators. Put them before a line break rather than at the beginning of the next line.

So please put the `∘ₗ` before the line break.

File: Mathlib/RingTheory/Coalgebra/MulOpposite.lean [hunk 3]
```diff
@@ -0,0 +1,49 @@
...
+namespace MulOpposite
+
+open scoped TensorProduct
+
+open TensorProduct Coalgebra LinearMap
+
+variable {R A : Type*} [CommSemiring R] [AddCommMonoid A] [Module R A]
+
+noncomputable instance [CoalgebraStruct R A] :
+    CoalgebraStruct R Aᵐᵒᵖ where
```
Comment (chrisflav) [inline Mathlib/RingTheory/Coalgebra/MulOpposite.lean]:
```suggestion
noncomputable instance [CoalgebraStruct R A] : CoalgebraStruct R Aᵐᵒᵖ where
```

**Review by chrisflav — COMMENTED** [review]
Looks good! Some last style nit-picks.

**Comment by chrisflav** [comment]
Thanks!

maintainer merge

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
